US08022062B2
Using a method similar to the General Procedure 5-1, couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetra-hydro-1H-benzo[d]azepine (0.1 g, 0.24 mmol) with 4-aminomethyl-1-methylindole (0.1 g, 0.71 mmol) to obtain 7-chloro-6-[(1-methyl-indol-4-yl-methyl)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetra-hydro-1H-benzo[d]azepine | 0.24 mmol, 0.1 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-aminomethyl-1-methylindole | 0.71 mmol, 0.1 g | NCC1=C2C=CN(C2=CC=C1)C | C10H12N2
product | 7-chloro-6-[(1-methyl-indol-4-yl-methyl)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=C2C=CN(C2=CC=C1)C | C22H21ClF3N3O
